US04526978
1-Benzyl-5-Phenylmethanesulfonyltetrazole
Heating a mixture of benzyl azide (Fr. Moulin, loc. cit.) and benzylsulfonyl cyanide as in Example 2 gives the title compound, m.p. 94°-96° C.

reactant | benzyl azide | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | benzylsulfonyl cyanide | C(C1=CC=CC=C1)S(=O)(=O)C#N | C8H7NO2S
product | 1-Benzyl-5-Phenylmethanesulfonyltetrazole | C(C1=CC=CC=C1)N1N=NN=C1S(=O)(=O)CC1=CC=CC=C1 | C15H14N4O2S
